US07105544B2
N-[3-(1-{3-[(3,3-DIPHENYLPROPANOYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE
Example 151 was prepared from 3,3-diphenylpropanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide according to the procedures described in Scheme 9: ESMS m/e: 510.4 (M+H)+.

reactant | 3,3-diphenylpropanoic acid | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | N-[3-(1-{3-[(3,3-DIPHENYLPROPANOYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE | C1(=CC=CC=C1)C(CC(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)C1=CC=CC=C1 | C33H39N3O2
